US07371749B2
2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid phenyl ester
To a solution of 1-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-1H-pyrazole-4-carboxylic acid (467 mg, 1.54 mmol) and phenol (145 mg, 1.54 mmol) in dimethylformamide (8 ml) was added under argon at 0° C. a solution of 4-dimethylaminopyridine (94 mg, 0.77 mmol) and brom-tripyrrolidinophosphonium-hexafluorophosphat (790 mg, 0.70 mmol) in dimethylformamide (8 ml) followed by triethylamine (0.65 ml, 4.6 mmol). After 48 h at ambient temperature, the reaction mixture is treated with saturated aqueous ammonium chloride (25 ml) and extracted three times with ethyl acetate (25 ml each). The combined organic layers are dryed with magnesium sulphate and evaporated to dryness. Flash chromatography (silice, eluent dichloromethane containing 4% methanol) afforded the title compound as colorless oil (55% yield). MS: m/e=304(M+H+).

reactant | 1-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-1H-pyrazole-4-carboxylic acid | 1.54 mmol, 467 mg | COCCN(CCN1N=CC(=C1)C(=O)O)C | C10H17N3O3
reactant | phenol | 1.54 mmol, 145 mg | C1(=CC=CC=C1)O | C6H6O
reactant | brom-tripyrrolidinophosphonium hexafluorophosphat | 0.70 mmol, 790 mg | Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.6 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.77 mmol, 94 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid phenyl ester | 55% yield | C1(=CC=CC=C1)OC(=O)C=1N(C(=NC1)CN(C)CCOC)C | C16H21N3O3
